US05116404
3-(2,4,6-trichlorophenyl)-6-bromo-2,4(1H,3H)-pyrimidinedione (compound No. 5.81 of the present invention)
10 ml of phosphorus tribromide was added dropwise to 0.60 g of pyridine with stirring at 0° C. and, after stirring this solution at 0° C. for 15 minutes, 1.6 g of the obtained 3-(2,4,6-trichlorophenyl)-6-hydroxy-2,4(1H,3H)-pyrimidinedione was added thereto. The mixed solution was stirred at 80° C. for 3 hours, then added into ice water and extracted with 100 ml of ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate and then the solvent was distilled away under reduced pressure to form a crude product. This crude product was recrystallized from a mixed solvent of hexane and isopropyl ether to obtain 0.62 g of the objective compound.

reactant | phosphorus tribromide | 10 ml | P(Br)(Br)Br | Br3P
reactant | 3-(2,4,6-trichlorophenyl)-6-hydroxy-2,4(1H,3H)-pyrimidinedione | 1.6 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(NC(=CC1=O)O)=O | C10H5Cl3N2O3
solvent | pyridine | 0.60 g | N1=CC=CC=C1 | C5H5N
product | 3-(2,4,6-trichlorophenyl)-6-bromo-2,4(1H,3H)-pyrimidinedione | 0.62 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(NC(=CC1=O)Br)=O | C10H4BrCl3N2O2
